US05153184
Example 4 Preparation of Ethyl 1-(((Ethoxy-(propylthio)phosphinyl)amino)carbonyl)-4-piperidinecarboxylate
To a solution of 2.36 g of ethyl 4-piperidine-carboxylate in 50 ml of ether at ambient temperature was added dropwise with stirring 3.14 g of O-ethyl S-n-propyl phosphoroisocyanatidothioate. The mixture was allowed to stir overnight and was then concentrated by evaporation under reduced pressure using a rotary evaporator and then a Kugelrohr apparatus at 55° C. and 13 Pascals pressure. The residue, which was the title compound, amounted to 5.2 g (94 percent of theory) and was an amber colored viscous oil having a refractive index at 25° C. of 1.5083.

reactant | ethyl 4-piperidine-carboxylate | 2.36 g | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | O-ethyl S-n-propyl phosphoroisocyanatidothioate | 3.14 g | P(OCC)(SCCC)(N=C=O)=O | C6H12NO3PS
solvent | ether | 50 ml | CCOCC | C4H10O
product | Ethyl 1-(((Ethoxy-(propylthio)phosphinyl)amino)carbonyl)-4-piperidinecarboxylate | C(C)OP(=O)(SCCC)NC(=O)N1CCC(CC1)C(=O)OCC | C14H27N2O5PS
